US04154834
A mixture of pyridine-3-carboxaldehyde (48 g), ethyl acetoacetate (52 g) aqueous piperidine acetate (40% 4.8 g) and 5% palladium on charcoal catalyst (50% wet, 2.48 g) was hydrogenated at 100 p.s.i. at 30° for 22 hours. The mixture was diluted with ether, filtered and the filtrate was evaporated and distilled under reduced pressure to give ethyl α-(3-pyridylmethyl)acetoacetate (b.p. 146°/1 mmHg). This ester was refluxed with thiourea and sodium ethoxide in ethanol, and the mixture was subsequently acidified to give 5-(3-pyridylmethyl)-6-methyl-2-thiouracil m.p. 328°-331°.

reactant | pyridine-3-carboxaldehyde | 48 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | ethyl acetoacetate | 52 g | C(CC(=O)C)(=O)OCC | C6H10O3
catalyst | palladium on charcoal | 2.48 g | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
product | ethyl α-(3-pyridylmethyl)acetoacetate | N1=CC(=CC=C1)CC(C(=O)OCC)C(=O)C | C12H15NO3
